US06861419B2
3-[7-(2,4-Dimethoxyphenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-4-hydroxy-6-methyl-pyran-2-one (187 mg, 0.5 mmol), prepared as in Reference 5, was combined with absolute ethanol (5 mL) and sodium borohydride (20 mg, 0.526 mmol) and the mixture was warmed on a hot plate to form a solution. The progress of the reaction was followed by analytical HPLC and LCMS and when complete (5 hours) acetic anhydride (1.5 ml. 30 eq) and DIPEA (0.6 mmol, 0.1 mL) were added. The reaction was stirred at room temperature overnight. Product was isolated by preparative HPLC (RPC18 column, acetonitrile/water containing 0.1% HCl) to provide 3-[4-acetyl-7-(2,4-dimethoxy-phenyl)-[1,4]thiazepan-5-yl]-4-hydroxy-6-methyl-pyran-2-one (25 mg). LCMS: MH+ 420.2.

reactant | 3-[7-(2,4-Dimethoxyphenyl)-2,3,6,7-tetrahydro-[1,4]thiazepin-5-yl]-4-hydroxy-6-methyl-pyran-2-one | 0.5 mmol, 187 mg | COC1=C(C=CC(=C1)OC)C1CC(=NCCS1)C=1C(OC(=CC1O)C)=O | C19H21NO5S
reactant | sodium borohydride | 0.526 mmol, 20 mg | [BH4-].[Na+]
reactant | acetic anhydride | 1.5 ml, 30 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIPEA | 0.6 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile water | C(C)#N.O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[4-acetyl-7-(2,4-dimethoxy-phenyl)-[1,4]thiazepan-5-yl]-4-hydroxy-6-methyl-pyran-2-one | 25 mg | C(C)(=O)N1CCSC(CC1C=1C(OC(=CC1O)C)=O)C1=C(C=C(C=C1)OC)OC | C21H25NO6S
